US07691867B2
A mixture of 4-hydroxy-7-((1-methylpiperidin-4-yl)methoxy)quinazolin-6-yl benzoate (0.215 g, 0.55 mmol), thionyl chloride (2 ml) and dimethylformamide (0.05 ml) were refluxed for 15 minutes. The solvent was evaporated in vacuo to yield 4-chloro-7-((1-methylpiperidin-4-yl)methoxy)quinazolin-6-yl benzoate (0.250 g, 94% yield) as the hydrochloride salt:

reactant | 4-hydroxy-7-((1-methylpiperidin-4-yl)methoxy)quinazolin-6-yl benzoate | 0.55 mmol, 0.215 g | C(C1=CC=CC=C1)(=O)OC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)O | C22H23N3O4
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
product | 4-chloro-7-((1-methylpiperidin-4-yl)methoxy)quinazolin-6-yl benzoate | 0.250 g, 94% yield | C(C1=CC=CC=C1)(=O)OC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)Cl | C22H22ClN3O3
